US07598257B2
Step 6: cis-4-[4-(7-[2-(Trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclohexylmethyl methanesulfonate.
cis-4-[4-(7-[2-(Trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclohexylmethanol was dissolved in chloroform (3.00 mL) and was cooled to 0° C. To the reaction was added TEA (0.10 mL, 0.00072 mol) and methanesulfonyl chloride (0.05 mL, 0.0006 mol) and this mixture was stirred at 0° C. for 2 hours at which time LCMS analysis showed mainly the product present in the mixture. The reaction was extracted with ethyl acetate and the organic extracts were washed with water, saturated NaCl, dried (MgSO4) and concentrated in vacuo. LC/MS (M+H)+: 506

reactant | cis-4-[4-(7-[2-(Trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclohexylmethanol | C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)[C@H]2CC[C@H](CC2)CO)(C)C | C22H33N5O2Si
reactant | methanesulfonyl chloride | 0.0006 mol, 0.05 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | chloroform | 3.00 mL | C(Cl)(Cl)Cl | CHCl3
product | cis-4-[4-(7-[2-(Trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclohexylmethyl methanesulfonate | CS(=O)(=O)OC[C@@H]1CC[C@@H](CC1)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C23H35N5O4SSi
